*  File     : ACS.LIB 
*  Revision : 2            
*  Date     : January 14th 2010       

*	This ACS model simulates:
*	-Igt (the same for all quadrants) maximum of the specification
*   -IL positive and negative maximum of specification
*   -IH positive and negative typical values
*   -VCL positive and negative typical values (behavior overvoltage protection)
*   -IBO positive and negative typical values (behavior overvoltage protection)
*   -(di/dt)c and (dV/dt)c parameters are simulated if those constraints 
*     exceed the specified limits.
*   -Power dissipation is realistic
*   
*
*   All these parameters are constant, and don't vary neither 
*   with temperature nor other parameters.
*    
*   For a correct ACS behavior, the "Maximum step size" must be below 
*   or equal 20µs.
*
*
*$
.SUBCKT ACS A G K PARAMS:
+ IBO_pos=10m
+ IBO_neg=5m
+ IGT=5m
+ IH_pos=20m
+ IH_neg=20m
+ IL_pos=25m
+ IL_neg=25m 
+ Rd=0.5    
+ BVP=790
+ BVN=670
+ RGINT=8
+ BVGK=14.9
* IBO_pos : positive breakover current typical 
* IBO_neg : negative breakover current typical
* IGT     : gate trigger current maximum
* IH_pos  : positive Holding current maximum 
* IH_neg  : negative Holding current maximum
* IL_pos  : positive Latching curent maximum
* IL_neg  : negative Latching curent maximum
* Rd      : Dynamic on-state resistance specified
* BVP     : positive clamping voltage typical
* BVN     : negative clamping voltage typical 
* RGINT   : internal resistor gate
* BVGK    : Reverse gate voltage

E_RS2         N1018887 0 VALUE {IF(
+  (V(N1019001)+(1-V(N1019001))*V(N1018771)*V(CMDIBO_NEG) )>0.5,1,0)}
R_R1         N899223 N1208329  600k  
E_porte_osc         N1017309 0 VALUE 
+ {IF((V(N1018407)>0.5)|(V(N1018305)>0.5),15,0)}
C_C_ibo_pos         CMDIBO_POS 0  1n IC=0 
E_osc_pos         N1018407 0 VALUE 
+ {IF(((I(V_IT)+(2*V(DIDT)*20m))<IH_pos)&(I(V_IT)>IH_pos/2),1,0)}
R_R_ibo_neg         N1018887 CMDIBO_NEG  100  
V_ID         N899522 N899471 DC 0 AC 0 
E_IF16         CONTROL 0 VALUE {IF((V(CMDIG)>0.5) | (V(CMDILIH)>0.5) |
+  (V(CMDIBO_POS)>0.5) | (V(CMDIBO_NEG)>0.5),200,0)}
C_Cparasitic1         N1208329 K  200p  
D_Dak_Q2         N899160 K DAK 
E_IF6         INIH_POS 0 VALUE {IF(IH_pos>IBO_pos,IBO_pos*0.85,IH_pos)}
E_IF3IF1_18         N1018619 0 VALUE {IF((I(V_IT)>IL_pos)|(I(V_IT)<-IL_neg),1,0
+  )}
C_C_osc         N1017379 0  100n IC=0 
E_IF4IF1_22         N1018559 0 VALUE 
+ {IF((I(V_IT)>V(INIH_POS))|(I(V_IT)<V(INIH_NEG)),1,0)} 
D_Doff1         A N899522 DOFF1_T 
C_Ccommande         COMMANDE 0  1u  
R_Rfloat         G K  10G  
V_I_osc         N1017413 N1017379 DC 0 AC 0 
F_ABMI1         0 DIDT V_IT 1
E_ID_neg         N1019001 0 VALUE {IF(I(V_ID)<-IBO_neg,1,0)}
D_Doff2         K N899471 DOFF2_T 
R_R_osc         N1017413 N1018243  300  
D_Dgk         N899818 G DGK 
L_L_didt         DIDT 0  1mH  
R_Rton         N1159007 COMMANDE  0.5  
C_CIHIL         CMDILIH 0  1n IC=0 
E_NON_neg         N1018771 0 VALUE {IF(V(CMDILIH)>0.5,0,1)}
C_C_ibo_neg         CMDIBO_NEG 0  1n IC=0 
E_IF5IF3_5         N1018509 0 VALUE {IF(
+  (V(N1018619)*V(N1018559)+V(N1018559)*(1-V(N1018619))*(V(CMDILIH)) )>0.5,1,0)}
X_S1    COMMANDE 0 N899223 N899160 ACS_S1 
R_RIHIL         N1018509 CMDILIH  100  
F_ABMI2         0 DIDT V_ID 1
E_osc_neg         N1018305 0 VALUE 
+ {IF(((I(V_IT)+(2*V(DIDT)*20m))>-IH_neg)&(I(V_IT)<-IH_neg/2),1,0)}
E_IF1IF1_10         CMDIG 0 VALUE {IF(I(V_IG)<-IGT,1,0)}
E_IF29         INIH_NEG 0 VALUE {IF(-IH_neg<-IBO_neg,-IBO_neg*0.85,-IH_neg)}
R_R_ibo_pos         N1018017 CMDIBO_POS  100  
V_IG         N899818 K DC 0 AC 0 
D_DTON         CONTROL N1159007 Dcontrol 
D_Dak_Q3         K N899160 DAK 
E_IF7         N1017817 0 VALUE {IF(V(CMDILIH)>0.5,0,1)}
E_OSC         N1018243 0 VALUE 
+ {IF(I(V_I_osc)<0,IF(V(N1017379)<0.25,1+V(N1017309),0-V(N1017309)),IF(V(N1017379)>0.75,0-V(N1017309),1+V(N1017309)))}
V_IT         A N899223 DC 0 AC 0 
R_Rgk         G N899818  10Meg  
R_Rcommande         CONTROL COMMANDE  30  
E_RS1         N1018017 0 VALUE {IF(
+  (V(N1018741)+(1-V(N1018741))*V(N1017817)*V(CMDIBO_POS) )>0.5,1,0)}
E_IF23         N1018741 0 VALUE {IF(I(V_ID)>IBO_pos,1,0)}
.ENDS
*$
*
****************
* Diodes Model *
****************   
*$
.MODEL Dcontrol D (Is=1e-14 Cjo=.1pF Rs=.1)
*$
.MODEL DGK D (IS=1e-14 N=1.05 RS={RGINT} BV={BVGK} IBV=3.95 NBV=1) 
*$
.MODEL DAK D (IS=5e-16 RS={Rd})
*$
.MODEL DOFF1_T D (BV={BVN})
*$
.MODEL DOFF2_T D (BV={BVP})
*$
****************
* Switch Model *
****************  
*$
.MODEL Smain_T VSWITCH Roff=10Meg Ron=1m Voff=1 Von=195
*
*$
.subckt ACS_S1 1 2 3 4   
S_S1         3 4 1 2 Smain_T
RS_S1        1 2 1G    
.ends ACS_S1 
*********************************************************************
* 							ACS								    *
*********************************************************************
*
*$
.subckt ACS110-7S A G K
X1 A G K ACS params:
+ IBO_pos=10m
+ IBO_neg=5m
+ IGT=10m
+ IH_pos=45m
+ IH_neg=45m
+ IL_pos=65m
+ IL_neg=65m 
+ Rd=0.3    
+ BVP=1340
+ BVN=1370 
+ RGINT=3
+ BVGK=11.3
* 2010 / ST / Rev 1
.ends
*$
.SUBCKT ACS120-7S A G K PARAMS:  
X1 A G K ACS params:
+ IBO_pos=10m
+ IBO_neg=5m
+ IGT=10m
+ IH_pos=45m
+ IH_neg=45m
+ IL_pos=65m
+ IL_neg=65m 
+ Rd=0.2    
+ BVP=1260
+ BVN=1340
+ RGINT=3
+ BVGK=11.3
* 2010 / ST / Rev 1
.ends
*$
.SUBCKT ACS108-6S A G K PARAMS: 
X1 A G K ACS params:
+ IBO_pos=17m
+ IBO_neg=5m 
+ IGT=10m
+ IH_pos=25m
+ IH_neg=25m
+ IL_neg=30m
+ IL_pos=30m
+ Rd=0.3    
+ BVP=700
+ BVN=650
+ RGINT=8
+ BVGK=14.9
* 2010 / ST / Rev 0
.ends
*$
.SUBCKT ACS102-6T A G K PARAMS: 
X1 A G K ACS params:
+ IBO_pos=10m
+ IBO_neg=5m 
+ IGT=5m
+ IH_pos=20m
+ IH_neg=20m
+ IL_neg=25m
+ IL_pos=25m
+ Rd=0.5    
+ BVP=790
+ BVN=670
+ RGINT=8
+ BVGK=14.9
* 2010 / ST / Rev 0
.ends
*$
